US05677305
4-Dimethylsulfamoyl-5-(4-oxo-4H-pyridin-1-yl)-1,2-phenylenediamine
First, a mixture containing 1.50 g of 4-dimethylsulfamoyl-3-(4-oxo-4H-pyridin-1-yl)-6-nitroaniline, 1.49 g of iron powder, 9 ml of water, 36 ml of ethanol, and 0.45 ml of 2N hydrochloric acid was refluxed by heating in an oil bath for 45 minutes. The subsequent processes were conducted in the same way as in Reference Example 3 to give crude crystals. The crude crystals were recrystallized with methanol/isopropanol to give 1.30 g of crystals of 4-dimethylsulfamoyl-5-(4-oxo-4H-pyridin-1-yl)-1,2-phenylenediamine.

reactant | 4-dimethylsulfamoyl-3-(4-oxo-4H-pyridin-1-yl)-6-nitroaniline | 1.50 g | CN(S(=O)(=O)C1=C(C=C(N)C(=C1)[N+](=O)[O-])N1C=CC(C=C1)=O)C | C13H14N4O5S
reactant | water | 9 ml | O | H2O
reactant | hydrochloric acid | 2N, 0.45 ml | Cl | ClH
catalyst | iron | 1.49 g | [Fe] | Fe
solvent | ethanol | 36 ml | C(C)O | C2H6O
product | 4-Dimethylsulfamoyl-5-(4-oxo-4H-pyridin-1-yl)-1,2-phenylenediamine | 1.30 g | CN(S(=O)(=O)C1=CC(=C(C=C1N1C=CC(C=C1)=O)N)N)C | C13H16N4O3S
